### PR TITLE
feat: add useful functions in `Parsec`, add error variant and `Std.Data.ByteSlice`

### PR DESCRIPTION
**Pull request by algebraic-dev**
This PR adds the type `Std.Internal.Parsec.Error`, which contains the constructors `.eof` (useful for checking if parsing failed due to not having enough input and then retrying when more input arrives that is useful in the HTTP server) and `.other`, which describes other errors. It also adds documentation to many functions, along with some new functions to the `ByteArray` Parsec, such as `peekWhen?`, `octDigit`, `takeWhile`, `takeUntil`, `skipWhile`, and `skipUntil`.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2cdb547af0e153beb4ca0c01be8dc1662a17d408 --onto e38f0c699014515ab0c40a9c5d794029177ecec4`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-28 19:31:13)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-08-08` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-08 22:05:42)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase db3fb47109de07fcfbb3e493d387086b0b8c01ae --onto 797985e3197ad2cf805310911854565996e72c48`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-26 23:23:18)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase db3fb47109de07fcfbb3e493d387086b0b8c01ae --onto 43dc9f45d1ad2f2065e079e08c7d1f678c5edc08`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-28 20:53:50)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0b84c3912ece79c0c438eab1dcdef636412a33b6 --onto fc6a6cc4e2ed529abacae437447ef5206527a370`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-11 04:10:40)

File: src/Std/Internal/Parsec/Basic.lean [hunk 1]
```diff
@@ -11,21 +11,47 @@ public import Init.Data.ToString.Macro
...
 namespace Parsec
 
+/--
+Error type for the `ParseResult`. It separates `eof` from the rest of the errors in order to
+improve the error handling for this case in parsers that can receive incomplete data and then reparse it.
+-/
+inductive Error where
+  | eof
+  | other (s : String)
+  deriving Repr
```
Comment (TwoFX) [inline src/Std/Internal/Parsec/Basic.lean]: Would you mind quickly converting the Parsec files to the preferred style for `deriving`?
```suggestion
deriving Repr
```

File: src/Std/Internal/Parsec/Basic.lean [hunk 2]
```diff
@@ -68,10 +95,21 @@ def tryCatch (p : Parsec ι α) (csuccess : α → Parsec ι β) (cerror : Unit
     -- We assume that it.s never changes as the `Parsec` monad only modifies `it.pos`.
     if Input.pos it = Input.pos rem then cerror () rem else .error rem err
 
+@[always_inline]
+instance : Monad (Parsec ι) where
```
Comment (TwoFX) [inline src/Std/Internal/Parsec/Basic.lean:113]: If I remember correctly, we don't want this because at the moment the compiler cannot generate good code if `Parsec` is used as a monad like this. @hargoniX, could you remind us of the details here?

File: src/Std/Internal/Parsec/ByteArray.lean [hunk 3]
```diff
@@ -122,17 +176,65 @@ private partial def skipWs (it : ByteArray.Iterator) : ByteArray.Iterator :=
...
   else
     .success (it.forward n) subarr
 
+/--
+Parses while a predicate is satisfied.
+-/
+@[inline]
+partial def takeWhile (pred : UInt8 → Bool) : Parser ByteArray :=
+  fun it =>
+    let rec findEnd (count : Nat) (iter : ByteArray.Iterator) : (Nat × ByteArray.Iterator) :=
```
Comment (TwoFX) [inline src/Std/Internal/Parsec/ByteArray.lean]:
```suggestion
    let rec findEnd (count : Nat) (iter : ByteArray.Iterator) : Nat × ByteArray.Iterator :=
```

File: src/Std/Internal/Parsec/ByteArray.lean [hunk 4]
```diff
@@ -122,17 +176,65 @@ private partial def skipWs (it : ByteArray.Iterator) : ByteArray.Iterator :=
...
-    .error it s!"expected: {n} bytes"
+    .error it .eof
   else
     .success (it.forward n) subarr
 
+/--
+Parses while a predicate is satisfied.
+-/
+@[inline]
+partial def takeWhile (pred : UInt8 → Bool) : Parser ByteArray :=
```
Comment (TwoFX) [inline src/Std/Internal/Parsec/ByteArray.lean]: I guess this would be even better if this returned some kind of byte slice

File: src/Std/Internal/Parsec/Basic.lean (hunk 2 above)
Comment (hargoniX) [reply src/Std/Internal/Parsec/Basic.lean:113]: But this instance was just moved from above to here (for reasons I don't understand) right? I've certainly been using parsec as a monad in my LRAT parsers and it does generate reasonable code.

Comment (TwoFX) [reply src/Std/Internal/Parsec/Basic.lean:113]: In that case I must have been misremembering. Thanks for confirming.

File: src/runtime/byteslice.cpp [hunk 5]
```diff
@@ -0,0 +1,38 @@
...
+*/
+#include <lean/lean.h>
+#include "runtime/byteslice.h"
+#include "runtime/io.h"
+#include "runtime/object.h"
+#include "runtime/thread.h"
+
+namespace lean {
+
+extern "C" LEAN_EXPORT bool lean_byteslice_beq(b_obj_arg a, b_obj_arg b) {
```
Comment (TwoFX) [inline src/runtime/byteslice.cpp]: I think the ABI wants us the return `uint8_t` for functions that return `Bool` in Lean land. See for example the implementation of `Nat.ble`.

File: src/Std/Data/ByteSlice.lean [hunk 6]
```diff
@@ -0,0 +1,327 @@
...
+@[always_inline, inline, expose, inherit_doc Internal.ByteSliceData.start]
+def start (xs : @& ByteSlice) : Nat :=
+  xs.internalRepresentation.start
+
+@[always_inline, inline, expose, inherit_doc Internal.ByteSliceData.stop]
+def stop (xs : @& ByteSlice) : Nat :=
+  xs.internalRepresentation.stop
+
+@[always_inline, inline, expose, inherit_doc Internal.ByteSliceData.start_le_stop]
+def start_le_stop (xs : ByteSlice) : xs.start ≤ xs.stop :=
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]: `theorem`?

File: src/Std/Data/ByteSlice.lean [hunk 7]
```diff
@@ -0,0 +1,327 @@
...
+def stop_le_array_size (xs : ByteSlice) : xs.stop ≤ xs.byteArray.size :=
+  xs.internalRepresentation.stop_le_array_size
+
+/--
+Computes the size of the byte slice.
+-/
+def size (s : @& ByteSlice) : Nat :=
+  s.stop - s.start
+
+theorem size_le_array_size {s : ByteSlice} : s.size ≤ s.byteArray.size := by
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]:
```suggestion
theorem size_le_size_byteArray {s : ByteSlice} : s.size ≤ s.byteArray.size := by
```

File: src/Std/Data/ByteSlice.lean [hunk 8]
```diff
@@ -0,0 +1,327 @@
...
+The index is relative to the start of the byte slice, rather than the underlying byte array.
+-/
+def get (s : @& ByteSlice) (i : Fin s.size) : UInt8 :=
+  have : s.start + i.val < s.byteArray.size := by
+   apply Nat.lt_of_lt_of_le _ s.stop_le_array_size
+   have := i.isLt
+   simp only [size] at this
+   rw [Nat.add_comm]
+   exact Nat.add_lt_of_lt_sub this
+  s.byteArray[s.start + i.val]!
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]: Does this not work? After all, you went through the trouble of proving the index is in bounds...
```suggestion
  s.byteArray[s.start + i.val]
```

File: src/Std/Data/ByteSlice.lean [hunk 9]
```diff
@@ -0,0 +1,327 @@
...
+/--
+Folds a monadic operation from right to left over the bytes in a byte slice.
+
+An accumulator of type `β` is constructed by starting with `init` and monadically combining each
+byte of the byte slice with the current accumulator value in turn, moving from the end to the
+start. The monad in question may permit early termination or repetition.
+
+Examples:
+```lean example
+#eval (ByteArray.mk #[1, 2, 3]).toByteSlice.foldrM (init := 0) fun x acc => do
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]: I'll admit I haven't tried it, but this example looks a bit fishy to me. How does it know that the monad is supposed to be `Option`?

File: src/Std/Data/ByteSlice.lean [hunk 10]
```diff
@@ -0,0 +1,327 @@
...
+  empty.
+  -/
+  start_le_stop : start ≤ stop
+
+  /-- The stopping index is no later than the end of the byte array.
+
+  The ending index is exclusive. If it is equal to the size of the byte array, then the last byte of
+  the byte array is in the byte slice.
+  -/
+  stop_le_bytearray_size : stop ≤ byteArray.size
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]: The order (and capitalization) is still wrong here (`Subarray` gets this wrong as well): it should be `stop_le_size_byteArray`.

File: src/Std/Data/ByteSlice.lean [hunk 11]
```diff
@@ -0,0 +1,338 @@
...
+  xs.internalRepresentation.start_le_stop
+
+@[inherit_doc Internal.ByteSliceData.stop_le_size_byteArray]
+theorem stop_le_size_byteArray (xs : ByteSlice) : xs.stop ≤ xs.byteArray.size :=
+  xs.internalRepresentation.stop_le_size_byteArray
+
+/--
+Computes the size of the byte slice.
+-/
+def size (s : @& ByteSlice) : Nat :=
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]: No need for a borrow annotation here.

File: src/Std/Data/ByteSlice.lean [hunk 12]
```diff
@@ -0,0 +1,338 @@
...
+  simp only [size, ge_iff_le]
+  apply Nat.le_trans (Nat.sub_le stop start)
+  assumption
+
+/--
+Extracts a byte from the byte slice.
+
+The index is relative to the start of the byte slice, rather than the underlying byte array.
+-/
+def get (s : @& ByteSlice) (i : Fin s.size) : UInt8 :=
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]:
```suggestion
def get (s : ByteSlice) (i : Fin s.size) : UInt8 :=
```

File: src/Std/Data/ByteSlice.lean [hunk 13]
```diff
@@ -0,0 +1,338 @@
...
+  have : s.start + i.val < s.byteArray.size := by
+   apply Nat.lt_of_lt_of_le _ s.stop_le_size_byteArray
+   have := i.isLt
+   simp only [size] at this
+   rw [Nat.add_comm]
+   exact Nat.add_lt_of_lt_sub this
+  s.byteArray[s.start + i.val]
+
+instance : GetElem (ByteSlice) Nat UInt8 fun xs i => i < xs.size where
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]:
```suggestion
instance : GetElem ByteSlice Nat UInt8 fun xs i => i < xs.size where
```

File: src/Std/Data/ByteSlice.lean [hunk 14]
```diff
@@ -0,0 +1,338 @@
...
+A region of some underlying byte array.
+
+A byte slice contains a byte array together with the start and end indices of a region of interest.
+Byte slices can be used to avoid copying or allocating space, while being more convenient than
+tracking the bounds by hand. The region of interest consists of every index that is both greater
+than or equal to `start` and strictly less than `stop`.
+-/
+abbrev ByteSlice := Std.Slice (Internal.ByteSliceData)
+
+instance : Self (Std.Slice (Internal.ByteSliceData)) (ByteSlice) where
```
Comment (TwoFX) [inline src/Std/Data/ByteSlice.lean]:
```suggestion
abbrev ByteSlice := Std.Slice Internal.ByteSliceData

instance : Self (Std.Slice Internal.ByteSliceData) ByteSlice where
```
